US04594347
8,9-Difluoro-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (11.5 g) is dissolved in conc. sulfuric acid (120 ml), and thereto is added potassium nitrate (17 g), and the mixture is reacted at an inner temperature of 70° C. for 2 hours. After the reaction, the reaction mixture is added to ice-water (1 liter), and the precipitated crystals are separated by filtration and recrystallized from dimethylformamide to give 8,9-difluoro-2-methyl-7-nitro-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid (6.8 g) as white cubic crystals. m.p. 265°-268° C. (decomp.)

reactant | 8,9-Difluoro-2-methyl-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 11.5 g | FC=1C=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O | C13H9F2NO3
reactant | potassium nitrate | 17 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
product | 8,9-difluoro-2-methyl-7-nitro-6-oxo-1,2-dihydro-pyrrolo[3,2,1-ij]quinoline-5-carboxylic acid | 6.8 g | FC=1C(=C2C(C(=CN3C2=C(C1F)CC3C)C(=O)O)=O)[N+](=O)[O-] | C13H8F2N2O5
